US05380724
4-[N-Methyl-N-(2,3-epoxypropyl)amino]benzylcyanide
A mixture of 4-methylaminobenzylcyanide (3.05 g, 20.9 mmol), epichlorohydrine (2.4 ml, 2.87 g, 31 mmol), ethanol (25 ml) and water (20 ml) was heated under reflux for 3 hours. After cooling the mixture was diluted with ethanol (10 ml) followed by addition of aqueous 10N NaOH (6 ml). The obtained clear solution was stirred at room temperature for one hour and the ethanol was distilled off. The residue was diluted with 100 ml of water and extracted with ether (3×50 ml). The organic extracts were washed with brine until neutral, dried over MgSO4 and concentrated. The residue was chromatographed over a silica gel column eluting with a 3:1 mixture of benzene and ethyl acetate to give 2.21 g of the oily title compound, yield: 52.2%.

reactant | 4-methylaminobenzylcyanide | 20.9 mmol, 3.05 g | CNC1=CC=C(CC#N)C=C1 | C9H10N2
reactant | epichlorohydrine | 31 mmol, 2.4 ml, 2.87 g | C(Cl)C1CO1 | C3H5ClO
reactant | water | 20 ml | O | H2O
reactant | NaOH | 10N, 6 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-[N-Methyl-N-(2,3-epoxypropyl)amino]benzylcyanide | 2.21 g, yield: 52.2% | CN(CC1CO1)C1=CC=C(CC#N)C=C1 | C12H14N2O
